US07772285B2
1.04 g of 3-(5-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-{[3-(methoxymethoxy)-1,2-benzisoxazol-6-yl]methoxy}phenyl) propanoic acid and 512 mg of potassium carbonate were suspended in 10 mL of N,N-dimethylformamide, to which 0.29 mL of chloromethyl pivalate was added, and this mixture was stirred for 2 hours at 40° C. Then, water and ethyl acetate were added to the reaction mixture, and the organic phase was separated therefrom. The remaining aqueous phase was extracted with ethyl acetate, and organic phases were combined together. After the resultant organic phase was washed with a saturated sodium chloride solution, the washed phase was dried over anhydrous magnesium sulfate, and the solvent was distilled out under reduced pressure. The resultant residue was purified by silica gel column chromatography [eluent; hexane:ethyl acetate=3:1] to yield 1.02 g of {[3-(5-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-{[3-(methoxymethoxy)-1,2-benzisoxazol-6-yl]methoxy}phenyl) propanoyl]oxy}methyl pivalate as light yellow oil.

reactant | 3-(5-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-{[3-(methoxymethoxy)-1,2-benzisoxazol-6-yl]methoxy}phenyl) propanoic acid | 1.04 g | C1(CCCC1)OC1=CC(=C(C(=O)C=2C=CC(=C(C2)CCC(=O)O)OCC2=CC3=C(C(=NO3)OCOC)C=C2)C=C1)O | C31H31NO9
reactant | potassium carbonate | 512 mg | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyl pivalate | 0.29 mL | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {[3-(5-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-{[3-(methoxymethoxy)-1,2-benzisoxazol-6-yl]methoxy}phenyl) propanoyl]oxy}methyl pivalate | 1.02 g | C(C(C)(C)C)(=O)OCOC(CCC1=C(C=CC(=C1)C(C1=C(C=C(C=C1)OC1CCCC1)O)=O)OCC1=CC2=C(C(=NO2)OCOC)C=C1)=O | C37H41NO11
